US07459567B2
To a solution of 4-(4-(2-chloro-phenyl)-3-{[(imino-pyrazol-1-yl-methyl)-carbamoyl]-methyl}-thiophen-2-yl)-N-(1-ethyl-propyl)-benzamide (0.87 g, 0.16 mmol) in CH2Cl2 (2 mL) was added 3-aminopropanol (0.037 g, 0.040 mL, 0.50 mmol) and diisopropyl ethylamine (0.064 g, 0.087 mL, 0.50 mmol). The solution was stirred overnight at RT. The solvent was removed and the product purified by flash chromatography (15:1 CHCl3:MeOH) to yield 4-[4-(2-chlorophenyl)-3-(2-{[[(3-hydroxypropyl)amino](imino)methyl]amino}-2-oxoethyl)thien-2-yl]-N-(1-ethylpropyl)benzamide (0.047 g) as a white solid. mp 109-110° C. MS (ES) m/z 541.12 ([M+H]+); Anal. Calcd for C28H33ClN4O3S.0.60 H2O: C, 60.93; H, 6.25; N, 10.15. Found: C, 60.57; H, 6.07; N, 10.02.

reactant | 4-(4-(2-chloro-phenyl)-3-{[(imino-pyrazol-1-yl-methyl)-carbamoyl]-methyl}-thiophen-2-yl)-N-(1-ethyl-propyl)-benzamide | 0.16 mmol, 0.87 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C(=O)NC(CC)CC)C=C1)CC(NC(N1N=CC=C1)=N)=O | C28H28ClN5O2S
reactant | 3-aminopropanol | 0.50 mmol, 0.040 mL, 0.037 g | NCCCO | C3H9NO
reactant | diisopropyl ethylamine | 0.50 mmol, 0.087 mL, 0.064 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(2-chlorophenyl)-3-(2-{[[(3-hydroxypropyl)amino](imino)methyl]amino}-2-oxoethyl)thien-2-yl]-N-(1-ethylpropyl)benzamide | 0.047 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C(=O)NC(CC)CC)C=C1)CC(=O)NC(=N)NCCCO | C28H33ClN4O3S
